US04002753
A mixture of 11 g 3-chloro-6-[N-(2-hydroxypropyl)ethylamino]pyridazine which can be be prepared as described in Example 4 of U.S. Pat. No. 3,769,278 and 11 g monocarbethoxyhydrazine in 55 ml n. pentylalcohol is warmed up to 140° C and kept at this temperature for 4 hours. After cooling the solution is extracted several times with water and then extracts collected together are extracted with ethyl ether. The aqueous phase is treated at room temperature with sodium bicarbonate until complete precipitation. The precipitate is collected, washed with water and dried under vacuum at room temperature on phosphorus pentaoxide to give with good yield 3-(2-carbethoxyhydrazino)-6-[N-(2-hydroxypropyl)ethylamino]-pyridazine melting at 160° -162° C.

reactant | 3-chloro-6-[N-(2-hydroxypropyl)ethylamino]pyridazine | 11 g | ClC=1N=NC(=CC1)N(CC(C)O)CC | C9H14ClN3O
reactant | monocarbethoxyhydrazine | 11 g | C(=O)(OCC)NN | C3H8N2O2
reactant | pentylalcohol | C(CCCC)O | C5H12O
product | 3-(2-carbethoxyhydrazino)-6-[N-(2-hydroxypropyl)ethylamino]-pyridazine | C(=O)(OCC)NNC=1N=NC(=CC1)N(CC(C)O)CC | C12H21N5O3
